US06740656B2
Step 2A 3-Phenyl-2,3-dihydrooxazolo[3,2-c]pyrimidine-5,7-(6H)-dione.
To 2-methyl-4-phenyl-4,5-dihydrooxazole (5.70 g, 35.4 mmol) and N,N-dimethylaniline (4.68 g, 6.83 mmol) in dichloromethane (25 mL) at 0° C. was added dropwise chlorocarbonyl isocyanate (3.80 g, 35.4 mmol). The mixture was allowed to warm to room temperature and was stirred for 14 h, during which time a thick white precipitate formed. The suspension was filtered, and the solid was triturated with diethyl ether (3×10 mL) to give a white powder (8.07 g, 99%). 1H NMR (TMS/CDCl3, 300 MHz): 7.44-7.24 (m, 5H); 5.57 (dd, J=3.3, 8.1 Hz, 1H), 5.12 (s, 1H); 5.00 (dd, J=8.1, 8.7 Hz, 1H); 4.54 (dd, J=3.3, 8.7 Hz, 1H); 3.04 (s, 1H). MS=231.0 ((M+H)+).

reactant | 2-methyl-4-phenyl-4,5-dihydrooxazole | 35.4 mmol, 5.70 g | CC=1OCC(N1)C1=CC=CC=C1 | C10H11NO
reactant | N,N-dimethylaniline | 6.83 mmol, 4.68 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | chlorocarbonyl isocyanate | 35.4 mmol, 3.80 g | ClC(=O)N=C=O | C2ClNO2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-Phenyl-2,3-dihydrooxazolo[3,2-c]pyrimidine-5,7-(6H)-dione | 8.07 g, 99% | C1(=CC=CC=C1)C1COC=2N1C(NC(C2)=O)=O | C12H10N2O3
